US07863269B2
4-Hydroxy-6-methylnicotinic acid (5 g) was dissolved in abs. DCM (30 ml) and treated with 10 drops of DMF. Oxalyl chloride (15 ml) was carefully added dropwise to this mixture. After stirring for four hours and allowing to stand overnight, the solvent was stripped off and for further drying the mixture was attached to the high vacuum. The 4-chloro-6-methylnicotinoyl chloride obtained (8 g) was dissolved in abs. DCM (160 ml). After cooling to 0° C., a 40% strength methanolic methylamine solution (66 ml) was added dropwise in the course of 15 min. After removal of the cooling, the mixture was additionally stirred at RT for 2 h. After addition of water (150 ml), it was extracted with DCM (three times). The combined organic phases were dried over sodium sulfate, filtered and concentrated. 4.4 g of the desired compound were obtained.

reactant | 4-Hydroxy-6-methylnicotinic acid | 5 g | OC1=CC(=NC=C1C(=O)O)C | C7H7NO3
reactant | Oxalyl chloride | 15 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | DCM | 30 ml | C(Cl)Cl | CH2Cl2
catalyst | DMF | 10 drops | CN(C)C=O | C3H7NO
product | 4-chloro-6-methylnicotinoyl chloride | ClC1=CC(=NC=C1C(=O)Cl)C | C7H5Cl2NO
